US08859574B2
To a mixture of 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (0.12 mmol) and triethylamine (83 uL, 0.6 mmol) in DMF (1.5 mL), was added methyl vinyl sulfone (38 mg, 0.36 mmol). The mixture was stirred at room temperature for 1 hour. The reaction was filtered and the filtrate was purified by preparative RP-HPLC to afford 5-Chloro-N2-(2-fluoro-5-methyl-4-(1-(2-(methylsulfonyl)ethyl)piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine as a white solid.

reactant | 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.12 mmol | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)F)NC1=NNC(=C1)C | C20H23ClFN7
reactant | triethylamine | 0.6 mmol, 83 uL | C(C)N(CC)CC | C6H15N
reactant | methyl vinyl sulfone | 0.36 mmol, 38 mg | C(=C)S(=O)(=O)C | C3H6O2S
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 5-Chloro-N2-(2-fluoro-5-methyl-4-(1-(2-(methylsulfonyl)ethyl)piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCN(CC1)CCS(=O)(=O)C)F)NC1=NNC(=C1)C | C23H29ClFN7O2S
